US07622480B2
0.19 g of palladium, 10% (dry basis) on activated carbon (50% in water) were added to a solution of 1.46 g (4.25 mmol) of 4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid ethyl ester in 40 ml methanol and this mixture was hydrogenated at 2 bar for 6 hours. After filtering through celite and removing the solvent under reduced pressure, 0.81 g (55% of yield) of 4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidine-1-carboxylic acid ethyl ester were obtained. NMR (300 MHz, CDCl3) δ=1.05-1.38 (m, 6H), 1.55-2.12 (m, 5H), 2.90-3.05 (m, 2H), 3.20-3.50 (m, 4H), 3.60-3.65 (m, 2H), 4.03-4.26 (m, 2H), 4.30-4.45 (m, 2H), 6.97-7.26 (m, 2H), 7.90-8.03 (m, 1H), 8.22-8.27 (m, 1H).

reactant | 4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid ethyl ester | 4.25 mmol, 1.46 g | C(C)OC(=O)N1CCC(=CC1)C1=CN(C2=NC=CC=C21)CCOCC | C19H25N3O3
solvent | methanol | 40 ml | CO | CH4O
product | 4-[1-(2-ethoxyethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-piperidine-1-carboxylic acid ethyl ester | 0.81 g, 55% | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=NC=CC=C21)CCOCC | C19H27N3O3
